US06291676B1
is prepared according to the procedure of Bigg et al. (Bioorg. Med. Chem. Lett. 1997, 17, 2235-2238) by the reduction of camptothecin with sodium borohydride. This furnishes the hydroxylactol which converts to formyloxy-mappicin ketone using periodic acid. The reaction of this ketone with zinc and t-butyl bromoacetate followed treatment with trifluoroacetate affords homocamptothecin. To then derivitize homocamptothecin at the 12-position, a suspension of homocamptothecin (3.12 g, 8.6 mmol) in a mixture of chloroacetaldehyde (18 ml) and H2O (75 ml) is prepared. 75% H2SO4 (75 ml) is added dropwise, and then FeSO47H2O (2.40 g, 8.6 mmol) was added. To the ice-cold mixture, 30% H2O2 (15 ml, 6.6 mmol) is added dropwise for 2 h with stirring. The mixture is stirred at room temperature for 14 h and then diluted with H2O, extracted with chloroform (3×200 ml), and the organic layer washed with brine and dried over MgSO4. Evaporation of the solvent renders a brown oil which upon purification using column chromatography (eluent: chloroform: methanol 98:2) yields the yellow solid product.

reactant | camptothecin | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=CC=CC5=NC4C3=C2)O | C20H16N2O4
reactant | sodium borohydride | [BH4-].[Na+]
reactant | periodic acid | I(=O)(=O)(=O)O | HIO4
reactant | t-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
catalyst | zinc | [Zn] | Zn
product | homocamptothecin | CC[C@]1(CC(=O)OCC2=C1C=C3C4=C(C=C5C=CC=CC5=N4)CN3C2=O)O | C21H18N2O4
